US08314120B2
5-Bromo-2-butylisoindolin-1-one (71.6 mg, 0.267 mmol), 5-phenylpyridin-3-amine (50.0 mg, 0.294 mmol) and Cs2CO3 (217.0 mg, 0.668 mmol) were added to suspension of 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (X-Phos) (12.7 mg, 0.027 mmol) and palladium acetate (PdOAc2) (8.0 mg, 0.040 mmol) in toluene (2 mL). The mixture was stirred and heated in the microwave (120° C., 300 W, 60 min). Water and ethyl acetate were added. The organic layer was separated, the aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over MgSO4. Purification by flash chromatography (dichloromethane/methanol, gradient 1-5% methanol) provided 2-butyl-5-(5-phenylpyridin-3-ylamino)isoindolin-1-one (53 mg, 54%). ESI-MS [M+H]+=358.1.

reactant | 5-Bromo-2-butylisoindolin-1-one | 0.267 mmol, 71.6 mg | BrC=1C=C2CN(C(C2=CC1)=O)CCCC | C12H14BrNO
reactant | 5-phenylpyridin-3-amine | 0.294 mmol, 50.0 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)N | C11H10N2
reactant | Cs2CO3 | 0.668 mmol, 217.0 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.027 mmol, 12.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.040 mmol, 8.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-butyl-5-(5-phenylpyridin-3-ylamino)isoindolin-1-one | 53 mg, 54% | C(CCC)N1C(C2=CC=C(C=C2C1)NC=1C=NC=C(C1)C1=CC=CC=C1)=O | C23H23N3O
